US05614540
Methyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-1-ene-1-carboxylate
To a solution of 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)-1-cyclohexenyl trifluoromethylsulfonate (1.0 g, 2.24 mmol) in 1:1 methanol/N,N-dimethylformamide (8 mL) were added triethylamine (0.66 mL, 4.72 mmol) and tetrakis(triphenylphosphine)palladium (0.13 g, 0.11 mmol). The resulting mixture was stirred at room temperature in the dark under a carbon monoxide atmosphere for 3 h. The mixture was partitioned between water and ethyl acetate, the organic extract was washed three times with water, once with brine, was dried (potassium carbonate) and was evaporated. Purification by flash chromatography, eluting with 3:1 hexanes/ethyl acetate, provided an off-white solid (0.64 g, 80%): m.p. 128°-129° C.

reactant | 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)-1-cyclohexenyl trifluoromethylsulfonate | 2.24 mmol, 1.0 g | FC(F)(F)S(=O)(=O)OC1=CCC(CC1)(C1=CC(=C(C=C1)OC)OC1CCCC1)C#N | C20H22F3NO5S
reactant | triethylamine | 4.72 mmol, 0.66 mL | C(C)N(CC)CC | C6H15N
reactant | methanol N,N-dimethylformamide | 8 mL | CO.CN(C=O)C
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-1-ene-1-carboxylate | 0.64 g, 80% | C(#N)C1(CC=C(CC1)C(=O)OC)C1=CC(=C(C=C1)OC)OC1CCCC1 | C21H25NO4
